US04888335
(a) 10,11-Dihydro dibenz[b,f][1,4]oxazepine
In a one liter three neck flask (argon atmosphere) was placed 50 ml of dry THF and 7.97 g (0.21 mole) of LAH. The suspension was stirred and a warm suspension of 29.57 g (0.14 mole) of 10,11-dihydro dibenz[b,f][1,4]oxazepine-11-one (Aldrich) in 500 ml of THF was added in a slow stream. The reaction mixture was stirred and heated to reflux for 3 hr. The reaction mixture was cooled and cautiously treated with 15 ml of water and 15 ml of saturated sodium sulfate solution. The mixture was stirred and heated to reflux for one hr. The solids were removed by filtration and washed with THF. The filtrate was concentrated to dryness to give 26.90 g of an oil that crystallized on standing. The nearly pure crystalline product was used in the next step without further purification.

reactant | LAH | 0.21 mole, 7.97 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 10,11-dihydro dibenz[b,f][1,4]oxazepine-11-one | 0.14 mole, 29.57 g | C1=CC=CC2=C1C(NC1=C(O2)C=CC=C1)=O | C13H9NO2
reactant | water | 15 ml | O | H2O
reactant | sodium sulfate | 15 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 10,11-Dihydro dibenz[b,f][1,4]oxazepine | 26.90 g | C1=CC=CC2=C1CNC1=C(O2)C=CC=C1 | C13H11NO
